US07572819B2
N-[(2S)-5-(2-fluoro-6-methyl-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide
To a solution of N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (250 mg, 0.68 mmol) in dry 1,4 dioxane (5 ml), polymer supported Pd(PPh3)4 (14 mg, 0.5 mmol/g, 0.007 mmol) was added along with 3-bromo-2-fluoro-6-methylpyridine (194 mg, 1.02 mmol) and 680 μl of a 2M Na2CO3 solution in water. The resulting mixture was heated at 90° degrees for 3 hours. Then after cooling the resin was removed by filtration and then the solvent was removed under reduced pressure. The residue was taken up with DCM, washed with water and loaded on a 25M+ silica cartridge eluating with a cyclohexane/AcOEt 75/25 mixture. 175 mg of title compound were recovered as white solid (74%). Due to the use of chiral Intermediate 7, the final compound is believed to be N-[(2S)-5-(2-fluoro-6-methyl-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide.

reactant | N-[(2S)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 0.68 mmol, 250 mg | CC1(OB(OC1(C)C)C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
reactant | 3-bromo-2-fluoro-6-methylpyridine | 1.02 mmol, 194 mg | BrC=1C(=NC(=CC1)C)F | C6H5BrFN
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4 dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.007 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[(2S)-5-(2-fluoro-6-methyl-3-pyridinyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | FC1=NC(=CC=C1C=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C | C18H21FN2O2S
